US07399841B1
Preparation of 2,4-Dichloro-6-methoxy-s-triazine
Cyanuric chloride was reacted with methanol in the presence of bicarbonate at 30° C. as described in the literature to give the product: mp 89-91° C. (lit mp 87-89° C., J. R. Dudley, et al, J. Amer. Chem. Soc., 1951, 73, 2986-2990), after recrystallization from heptane. 1H-NMR (CDCl3): δ4.12 (OCH3).

reactant | Cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | bicarbonate | C([O-])(O)=O
solvent | methanol | CO | CH4O
product | 2,4-Dichloro-6-methoxy-s-triazine | ClC1=NC(=NC(=N1)Cl)OC | C4H3Cl2N3O
